US05380732
6-Chloro-6-hydroxypyridine (Aldrich) (1.94 g, 15 mmol) in dry dimethylformamide (DMF) (3 ml) was added to a suspension of hexane washed sodium hydride (18 mmol) in dry DMF (11 ml). After stirring at room temperature for 2 hours, 8-bromo-octan-1-ol (3.15 g) was added. The mixture was warmed at 60° for 2 hours and left at room temperature for 16 hours. After conventional work-up and chromatography on silica, 8-(6'-chloro-2-pyridyl)oxyoctan-1-ol was obtained.

reactant | 6-Chloro-6-hydroxypyridine | 15 mmol, 1.94 g | ClC1(C=CC=CN1)O | C5H6ClNO
reactant | hexane | CCCCCC | C6H14
reactant | sodium hydride | 18 mmol | [H-].[Na+]
reactant | 8-bromo-octan-1-ol | 3.15 g | BrCCCCCCCCO | C8H17BrO
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | DMF | 11 ml | CN(C=O)C | C3H7NO
product | 8-(6'-chloro-2-pyridyl)oxyoctan-1-ol | ClC1=CC=CC(=N1)OCCCCCCCCO | C13H20ClNO2
